US05025031
Sulfamic acid 4-fluorophenyl ester
Using the procedure of Example 56, a mixture of 11.2 g (0.1 mole) of 4-flurophenol and 9.1 ml (0.105 mole) of chlorosulfonyl isocyanate in 50 ml of toluene gave, after recrystallization from benzene, 15.0 g (79%) of the title compound as a white solid, mp 82.5°-85.5° C.

reactant | 4-flurophenol | 0.1 mole, 11.2 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | chlorosulfonyl isocyanate | 0.105 mole, 9.1 ml | ClS(=O)(=O)N=C=O | CClNO3S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Sulfamic acid 4-fluorophenyl ester | FC1=CC=C(C=C1)OS(N)(=O)=O | C6H6FNO3S
